US05908843
A mixture of 10 g of ethyl 3-(4-(4-(3-BOC-guanidino)benzoyl)-2-oxopiperazin-1-yl)propionate (m.p. 143°; FAB 462; obtainable by condensing 4-(3-BOC-guanidino)benzoic acid with ethyl 3-(2-oxopiperazin-1-yl)propionate), 400 ml of dioxane and 56 ml of 1 N aqueous NaOH solution is stirred for 5 hours at 20°. It is evaporated, the residue is dissolved in water, the solution is washed several times with ethyl acetate, and HCl is added to pH 4. Extraction is carried out with ethyl acetate, the extract is dried and evaporated, the resulting crude 3-(4-(4-(3-BOC-guanidino)benzoyl)-2-oxopiperazin-1-yl)propionic acid is dissolved in 200 ml of 4 N HCl in dioxane and the solution is stirred for 3 hours at 20° and worked up in conventional manner to give 3-(4-(4-guanidinobenzoyl)-2-oxopiperazin-1-yl)propionic acid, m.p. 110° (decomposition).

reactant | ethyl 3-(4-(4-(3-BOC-guanidino)benzoyl)-2-oxopiperazin-1-yl)propionate | 10 g | C(=O)(OC(C)(C)C)NC(NC1=CC=C(C(=O)N2CC(N(CC2)CCC(=O)OCC)=O)C=C1)=N | C22H31N5O6
reactant | NaOH | 1 N, 56 ml | [OH-].[Na+]
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 3-(4-(4-guanidinobenzoyl)-2-oxopiperazin-1-yl)propionic acid | N(C(=N)N)C1=CC=C(C(=O)N2CC(N(CC2)CCC(=O)O)=O)C=C1 | C15H19N5O4
